US07723368B2
Step 4) 1-difluoromethoxy-4-{3-[3-(2-fluoro-ethyl)-cyclobutyl]phenyl-ethynyl}benzene
{3-[3-(2-Fluoro-ethyl)-cyclobutyl]-phenylethynyl}-triisopropyl-silane (349 mg, 0.973 mmol) was dissolved in THF (2 ml) and treated with a 1M solution of tetrabutylammonium fluoride (TBAF) in THF (2 ml) at room temperature. The crude product obtained from aqueous work-up was placed in a CEM snap top microwave vial and combined with 1-Bromo-4-Difluoromethoxybenzene (300 mg 1.30 mmol), copper iodide (35 mg, 0.131 mmol), tetrakis(triphenylphosphine)palladium (70 mg, 0.060 mmol) and triethylamine (4.3 g, 42.5 mmol). The vial was quickly agitated then irradiated in a CEM Explorer™ microwave instrument for 30 minutes at 80° C. Purification by column chromatography (gradient; 0%, then 5% EtOAc in hexanes) afforded an oil 178 mg (53%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.68-1.80 (m, 2H) 1.85-2.11 (m, 2H) 2.17-2.36 (m, 2H) 2.38-2.43 (m, 1H) 3.28-3.65 (m, 1H) 4.24-4.52 (m, 2H) 7.01-7.47 (m, 5H) 7.18 (d, J=8.8 Hz, 2H) 7.58 (d, J=8.8 Hz, 2H).

reactant | {3-[3-(2-Fluoro-ethyl)-cyclobutyl]-phenylethynyl}-triisopropyl-silane | 0.973 mmol, 349 mg | FCCC1CC(C1)C=1C=C(C=CC1)C#C[Si](C(C)C)(C(C)C)C(C)C | C23H35FSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-Bromo-4-Difluoromethoxybenzene | 1.30 mmol, 300 mg | BrC1=CC=C(C=C1)OC(F)F | C7H5BrF2O
reactant | triethylamine | 42.5 mmol, 4.3 g | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.131 mmol, 35 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.060 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-difluoromethoxy-4-{3-[3-(2-fluoro-ethyl)-cyclobutyl]phenyl-ethynyl}benzene | 178 mg, 53% | FC(OC1=CC=C(C=C1)C#CC1=CC(=CC=C1)C1CC(C1)CCF)F | C21H19F3O
